US04497827
Preparation of Heneicosa-5,8,11,14-tetraynoylhydroxylamine
Heneicosa-5,8,11,14-tetraynoic acid (130 mg) was dissolved in methylene chloride (3 ml) and a solution of thionyl chloride (104 mg) and dimethylformamide (5 mg) in methylene chloride (2.6 ml) was added. After 3 hours at 25° C., the solution was evaporated. To the residue was added a solution of hydroxylamine hydrochloride (58 mg) and sodium bicarbonate (70 mg) in water (0.4 ml) and methanol (0.4 ml) to which had been added normal aqueous potassium hydroxide sufficient to obtain a pH of 9. After 10 minutes ether (20 ml) and 1.0N hydrochloric acid (10 ml) were added. The organic solution was dried and evaporated, and the residue was chromatographed on silica gel, eluting with methylene chloride/methanol/ammonium hydroxide, (40/4/0.3;v/v/v) so as to afford the title compound as a solid, m.p.: 85°-88° C.

reactant | Heneicosa-5,8,11,14-tetraynoic acid | 130 mg | C(CCCC#CCC#CCC#CCC#CCCCCCC)(=O)O | C21H26O2
reactant | thionyl chloride | 104 mg | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 5 mg | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1.0N, 10 ml | Cl | ClH
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.6 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 20 ml | CCOCC | C4H10O
product | Heneicosa-5,8,11,14-tetraynoylhydroxylamine | C(CCCC#CCC#CCC#CCC#CCCCCCC)(=O)NO | C21H27NO2
